US09029545B2
N-[3-Bromo-6-methyl-2-(1H-pyrazol-4-yl)thieno[2,3-b]pyridin-4-yl]-3-chlorobenzenesulfonamide
A mixture of ethyl 3-bromo-4-{[(3-chlorophenyl)sulfonyl]amino}-6-methyl-2-(1H-pyrazol-4-yl)thieno[2,3-b]pyridine-5-carboxylate (Description 74) (920 mg, 1.65 mmol) in DMSO (15 mL) and aqueous NaOH (5M) (3.31 mL, 16.55 mmol) was heated at 150° C. for ca. 1.5 h. After cooling to RT, the mixture was diluted with water (20 mL) and acidified with formic acid (ca. pH 4-5). The mixture was extracted with 10% MeOH/DCM (30 mL×5) and the combined organics dried and concentrated. The residue was passed through a C18 solid phase extractor cartridge, eluting with water (100 mL×4) and then with MeOH (100 mL×4) and the combined organics concentrated. The residue (877 mg) was taken-up in diphenyl ether (5.0 mL, 31.4 mmol) and DMSO (0.5 mL) and the mixture heated at 200° C. for ca. 1 h. After cooling to RT, the mixture was purified by chromatography on silica, eluting with a gradient of 0-100% ethyl acetate in cyclohexane, to give the title compound (430 mg). LCMS (A) m/z: 483/485 [M+1]+, Rt 1.16 min (acidic).

reactant | ethyl 3-bromo-4-{[(3-chlorophenyl)sulfonyl]amino}-6-methyl-2-(1H-pyrazol-4-yl)thieno[2,3-b]pyridine-5-carboxylate | 1.65 mmol, 920 mg | BrC1=C(SC2=NC(=C(C(=C21)NS(=O)(=O)C2=CC(=CC=C2)Cl)C(=O)OCC)C)C=2C=NNC2 | C20H16BrClN4O4S2
reactant | NaOH | 16.55 mmol, 5M, 3.31 mL | [OH-].[Na+]
reactant | formic acid | pH 4-5 | C(=O)O | CH2O2
reactant | diphenyl ether | 31.4 mmol, 5.0 mL | C1(=CC=CC=C1)OC1=CC=CC=C1 | C12H10O
solvent | DMSO | 15 mL | CS(=O)C | C2H6OS
solvent | water | 20 mL | O | H2O
solvent | DMSO | 0.5 mL | CS(=O)C | C2H6OS
product | N-[3-Bromo-6-methyl-2-(1H-pyrazol-4-yl)thieno[2,3-b]pyridin-4-yl]-3-chlorobenzenesulfonamide | 430 mg | BrC1=C(SC2=NC(=CC(=C21)NS(=O)(=O)C2=CC(=CC=C2)Cl)C)C=2C=NNC2 | C17H12BrClN4O2S2
